US07538135B2
To a vigorously stirring solution of (3-amino-1H-pyrazol-4-yl)-phenyl-methanone (0.1 g, 0.53 mmol) in dry DMF at RT is added sodium hydride (0.023 g, 0.57 mmol). After 1 h, ethyl iodide (0.042 mL, 0.53 mmol) is added and stirring is continued for 4 h. The reaction mixture is diluted with ethyl acetate, washed with water, brine and dried over anhydrous sodium sulfate. The organic filtrate is concentrated and the crude is chromatographed on silica gel using 50% ethyl acetate in hexanes to provide (3-amino-1-ethyl-1H-pyrazol-4-yl)-phenyl-methanone.

reactant | (3-amino-1H-pyrazol-4-yl)-phenyl-methanone | 0.53 mmol, 0.1 g | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
reactant | sodium hydride | 0.57 mmol, 0.023 g | [H-].[Na+]
reactant | ethyl iodide | 0.53 mmol, 0.042 mL | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-amino-1-ethyl-1H-pyrazol-4-yl)-phenyl-methanone | NC1=NN(C=C1C(=O)C1=CC=CC=C1)CC | C12H13N3O
